US06407111B1
c) [2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-phenyl-methanone
A solution of 0.3 g (0.8 mmol) of N-[2-benzoyl-4-(4-methyl-piperazin-1-yl)-phenyl]-2,2-dimethyl-propionamide in 10 ml of 3 N aqueous hydrochloric acid was stirred for 20 h at room temperature. The reaction mixture was extracted once with ethyl acetate, the aqueous layer was made alkaline with concentrated sodium hydroxide solution and was extracted four times with dichloromethane. The combined organic layers were dried over magnesium sulfate and evaporated to yield 245 mg (quantitative) of the product as light yellow oil.

reactant | N-[2-benzoyl-4-(4-methyl-piperazin-1-yl)-phenyl]-2,2-dimethyl-propionamide | 0.8 mmol, 0.3 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)N1CCN(CC1)C)NC(C(C)(C)C)=O | C23H29N3O2
solvent | hydrochloric acid | 3 N, 10 ml | Cl | ClH
product | [2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-phenyl-methanone | NC1=C(C=C(C=C1)N1CCN(CC1)C)C(=O)C1=CC=CC=C1 | C18H21N3O
